US06048864
(c) 2-Cyano-3-cyclopentyloxy-4,5-dimethoxyaniline
The subtitle compound was prepared from 2-cyano-3-cyclopentyloxy-4,5-dimethoxynitrobenzene following the procedure described in Example 10(f) and was obtained as a cream coloured solid (66%). Rf 0.79 (dichloromethane:methanol:0.880 aqueous ammonia, 92:7:1, v/v). 1H-NMR (CDCl3): δ=1.57 (2H, m), 1.70 (2H, m), 1.90 (4H, m), 3.68 (3H, s), 3.82 (3H, s), 5.10 (1H, m), 5.98 (1H, s).

reactant | 2-cyano-3-cyclopentyloxy-4,5-dimethoxynitrobenzene | C(#N)C1=C(C=C(C(=C1OC1CCCC1)OC)OC)[N+](=O)[O-] | C14H16N2O5
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 2-Cyano-3-cyclopentyloxy-4,5-dimethoxyaniline | C(#N)C1=C(N)C=C(C(=C1OC1CCCC1)OC)OC | C14H18N2O3
